US06034099
From the reaction of 4-hydrazinobenzoic acid and ethylbutyrylacetate, 4-(4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid is obtained. Subsequent reaction with 2-ethylaniline yields 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid, Mp 254.5° C.

reactant | 4-hydrazinobenzoic acid | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 4-(4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid | O=C1CC(=NN1C1=CC=C(C(=O)O)C=C1)CCC | C13H14N2O3
